* c:\fossee\esim\library\subcircuitlibrary\m5223_final\m5223_final.cir

.include M5223_My.sub
x1 net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad8_ net-_u1-pad1_ M5223_My
x2 net-_u1-pad6_ net-_u1-pad5_ net-_u1-pad4_ net-_u1-pad8_ net-_u1-pad7_ M5223_My
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
